US05776940
In the manner of step (a) of Example 6, 2-(1-cyclohexenyl)ethylamine (Aldrich, 94.6 g, 0.733 mole as 97%) was reacted with 1,1'-carbonyldiimidazole to give 1,3-bis[2-(1-cyclohexen-1-yl)ethyl]urea as a white powder (56.26 g, 54%), m.p. 129°-131° C.;

reactant | 2-(1-cyclohexenyl)ethylamine | 0.733 mole, 94.6 g | C1(=CCCCC1)CCN | C8H15N
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 1,3-bis[2-(1-cyclohexen-1-yl)ethyl]urea | 56.26 g, 54% | C1(=CCCCC1)CCNC(=O)NCCC1=CCCCC1 | C17H28N2O
